US03952031
3β-Hydroxy-5α-pregn-16-en-20-one (10 g.) in pyridine (50 ml.) was treated with toluene-p-sulphonyl chloride (10 g.), and the solution was stirred at room temperature overnight and then poured into dilute hydrochloric acid. The precipitate was extracted into chloroform, and the extract was washed with dilute hydrochloric acid and with water, dried over sodium sulphate and evaporated to an oil which crystallised on standing. Recrystallisation from ethyl acetate/petrol gave 3β-toluene-p-sulphonyloxy-5α-pregn-16-en-20-one (13.3g) as off-white prisms, m.p. 146°-148° , [α]D + 24.0°, λmax. (EtOH) 226.5 nm (ε 18,600), 240 nm (infl.) (ε 9550), 272.5 nm (ε 518).

reactant | 3β-Hydroxy-5α-pregn-16-en-20-one | 10 g | O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC=C(C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C21H32O2
reactant | toluene-p-sulphonyl chloride | 10 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3β-toluene-p-sulphonyloxy-5α-pregn-16-en-20-one | 13.3g | C1(=CC=C(C=C1)S(=O)(=O)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC=C(C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)C | C28H38O4S
